US05739351
(3aS,4S,6S,7aR)-6-Cyanomethyl-2-[(2-hydroxyphenyl)acetyl]-4-(2-methoxyphenyl)perhydroisoindol-4-ol is obtained by proceeding as described in Example 4, from 1.3 g of (3aS,4S,6S,7aR)-6-cyanomethyl-2-[(2-benzyloxyphenyl)acetyl]-4-(2-methoxyphenyl)perhydroisoindol-4-ol, 130 cm3 of ethanol, 0.3 g of 20% palladium hydroxide on carbon black, and hydrogen. Purification by chromatography gives 0.60 g of (3aS,4S,6S,7aR)-6-cyanomethyl-2-[(2-hydroxyphenyl)acetyl]-4-(2-methoxyphenyl)perhydroisoindol-4-ol in the form of a thick white foam.

reactant | (3aS,4S,6S,7aR)-6-cyanomethyl-2-[(2-benzyloxyphenyl)acetyl]-4-(2-methoxyphenyl)perhydroisoindol-4-ol | 1.3 g | C(#N)C[C@H]1C[C@@]([C@@H]2CN(C[C@@H]2C1)C(CC1=C(C=CC=C1)OCC1=CC=CC=C1)=O)(O)C1=C(C=CC=C1)OC | C32H34N2O4
reactant | hydrogen | [H][H] | H2
catalyst | palladium hydroxide on carbon | 0.3 g | [OH-].[OH-].[Pd+2]
solvent | ethanol | 130 cm3 | C(C)O | C2H6O
product | (3aS,4S,6S,7aR)-6-cyanomethyl-2-[(2-hydroxyphenyl)acetyl]-4-(2-methoxyphenyl)perhydroisoindol-4-ol | 0.60 g | C(#N)C[C@H]1C[C@@]([C@@H]2CN(C[C@@H]2C1)C(CC1=C(C=CC=C1)O)=O)(O)C1=C(C=CC=C1)OC | C25H28N2O4
